US06777428B1
4-[3-(4-fluorobenzamidyl)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (50 mg, 0.229 mmol) and 4-fluorobenzoyl chloride (81 μl, 0.687 mmol), 61.1 mg (78%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.229 mmol, 50 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | 4-fluorobenzoyl chloride | 0.687 mmol, 81 μl | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-[3-(4-fluorobenzamidyl)benzoyl]-1-methylpiperidine | 61.1 mg, 78% | FC1=CC=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=C1 | C20H21FN2O2
